US07919504B2
1,6-Dibromoisoquinolin-3-amine.
4-Bromo-2-(cyanomethyl)benzonitrile (75 g, 339 mmol) was added to 2,2-dichloroacetic acid (150 mL, 339 mmol). The resulting solution was cooled to 0° C. in an ice-water bath. HBr (27.5 g, 339 mmol) was bubbled through the cold solution until a yellow precipitate crashed out of solution, resulting in a yellow slurry. HBr was bubbled through the slurry for an additional 5 minutes. The solution was allowed to warm to room temperature over 1 hour. The slurry was then cooled to 0° C. in an ice-water bath and diethyl ether (200 mL) was added. The mixture was stirred for 20 minutes at 5° C. The product was recovered as a yellow solid by filtration (42 g, 41%). LCMS (API-ES) m/z: 303 (M+H+).

reactant | 4-Bromo-2-(cyanomethyl)benzonitrile | 339 mmol, 75 g | BrC1=CC(=C(C#N)C=C1)CC#N | C9H5BrN2
reactant | 2,2-dichloroacetic acid | 339 mmol, 150 mL | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | HBr | 339 mmol, 27.5 g | Br | BrH
product | 1,6-Dibromoisoquinolin-3-amine | BrC1=NC(=CC2=CC(=CC=C12)Br)N | C9H6Br2N2
